US08563575B2
The mixture of tert-butyl 2-chloropyridin-3-ylcarbamate (10.0 g), 4-nitroaniline (8.0 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (2.53 g), Pd2(dba)3 (2 g) and sodium tert-butoxide (12.5 g) in toluene (160 mL)-2-propanol (40.0 mL) was stirred at 100° C. under Ar overnight. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (4.0 g) as a light brown solid. A mixture of 3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (3.50 g), sodium hydride (0.400 g) and iodoethane (2.0 mL) in DMF (40 mL) was stirred at 20° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 0%-30% EtOAc in hexane) to give 1-ethyl-3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.70 g) as a brown solid. A mixture of 1-ethyl-3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.70 g) and 10% palladium-carbon (0.832 g) in EtOH (250 mL) was hydrogenated under balloon pressure at room temperature for 3 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 3-(4-aminophenyl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.00 g) as a brown solid.

reactant | 1-ethyl-3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.70 g | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)[N+](=O)[O-])=O | C14H12N4O3
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | palladium-carbon | 0.832 g | [C].[Pd]
product | 3-(4-aminophenyl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.00 g | NC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)CC)=O | C14H14N4O
